US06221860B1
Preparation of (3RS,4RS)-4-(Isobutoxy)-3-(triphenylmethylamino)azetidin-2-one
A solution of (3RS,4RS)-1 -(tert-butyldimethylsilyl)-4-(isobutoxy)-3-(triphenylmethylamino)azetidin-2-one (160 mg, 0.3 mmol) in tetrahydrofuran (4 mL) was cooled in an ice bath and treated with acetic acid (25 mg, 0.4 mmol) followed by dropwise addition of 1 M tetrabutylammonium fluoride (0.6 mL, 0.6 mmol). The mixture was stirred for 20 min and passed through silica gel (10 g) eluted with ethyl acetate. The eluate was concentrated and the residue was chromatographed on silica gel eluted with 20% ethyl acetate:hexane to give the title compound. MS(ES) m/e 423 [M+Na]+.

reactant | (3RS,4RS)-1 -(tert-butyldimethylsilyl)-4-(isobutoxy)-3-(triphenylmethylamino)azetidin-2-one | 0.3 mmol, 160 mg | [Si](C)(C)(C(C)(C)C)N1C(C(C1OCC(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H42N2O2Si
reactant | acetic acid | 0.4 mmol, 25 mg | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 0.6 mmol, 1 M, 0.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (3RS,4RS)-4-(Isobutoxy)-3-(triphenylmethylamino)azetidin-2-one | C(C(C)C)OC1C(C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H28N2O2
